US08283353B2
1-(1,4-dioxaspiro[4.5]dec-8-yloxy)-2-methylpropan-2-ol
To a solution of 1,4-dioxaspiro[4.5]decan-8-ol (4.90 g) in N,N-dimethylformamide (20 mL) was added 60% sodium hydride in oil (1.24 g) under ice-cooling, and the mixture was stirred at room temperature for 1 hr. Isobutylene oxide (2.52 g) was added to this mixture, and the mixture was stirred at 90° C. for 15 hr. The reaction mixture was cooled to room temperature and diluted with water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography [eluent: hexane/ethyl acetate=90/10→70/30 (volume ratio)] to give the title compound as a colorless oil (5.59 g, 78%).

reactant | 1,4-dioxaspiro[4.5]decan-8-ol | 4.90 g | O1CCOC12CCC(CC2)O | C8H14O3
reactant | sodium hydride | [H-].[Na+]
reactant | Isobutylene oxide | 2.52 g | CC1(C)CO1 | C4H8O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(1,4-dioxaspiro[4.5]dec-8-yloxy)-2-methylpropan-2-ol | 5.59 g, 78% | O1CCOC12CCC(CC2)OCC(C)(O)C | C12H22O4
